US07465731B2
To a solution of tert-butyl [(3R)-1-(3-fluorobenzyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridyl)carbamate [(251 g) in MeOH (37 mL) was added hydrogen chloride methanol reagent 10 (9.28 mL, Tokyo Kasei), and the mixture was stirred at ambient temperature for 1 hour. The solvent was removed in vacuo and the residue was dissolved in dioxane (12 mL). To the reaction mixture was added 4N HCl in dioxane and stirred for 1 hour at ambient temperature. To the reaction mixture was added CH3CN and the solvent was removed in vacuo. Obtained colorless solid was triturated with CH3CN to give (2E)-3-(6-{[(3R)-1-(3-fluorobenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride (1.87 g) as colorless powder.

reactant | tert-butyl [(3R)-1-(3-fluorobenzyl)-3-pyrrolidinyl](5-{(1E)-3-oxo-3-[(tetrahydro-2H-pyran-2-yloxy)amino]-1-propen-1-yl}-2-pyridyl)carbamate | FC=1C=C(CN2C[C@@H](CC2)N(C(OC(C)(C)C)=O)C2=NC=C(C=C2)\C=C\C(NOC2OCCCC2)=O)C=CC1 | C29H37FN4O5
reactant | hydrogen chloride methanol | CO.Cl
solvent | MeOH | 37 mL | CO | CH4O
product | (2E)-3-(6-{[(3R)-1-(3-fluorobenzyl)-3-pyrrolidinyl]amino}-3-pyridyl)-N-hydroxyacrylamide dihydrochloride | 1.87 g | Cl.Cl.FC=1C=C(CN2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)NO)C=CC1 | InChI=1S/C19H21FN4O2.2ClH/c20-16-3-1-2-15(10-16)12-24-9-8-17(13-24)22-18-6-4-14(11-21-18)5-7-19(25)23-26;;/h1-7,10-11,17,26H,8-9,12-13H2,(H,21,22)(H,23,25);2*1H/b7-5+;;/t17-;;/m1../s1
